.subckt cim_cell_8t1c BL BR VGND VPWR VPB VNB WL RWL RBL
* The 6T core (extracted as 8 transistors due to OPC/dummy shapes in layout)
* We match the Magic extraction flat:
* 2 nfet pass gates
X0 Q_bar WL BR VNB sky130_fd_pr__special_nfet_pass w=0.14 l=0.15
X6 BL WL Q VNB sky130_fd_pr__special_nfet_pass w=0.14 l=0.15

* 2 nfet latch
X2 Q Q_bar VGND VNB sky130_fd_pr__special_nfet_latch w=0.21 l=0.15
X8 VGND Q Q_bar VNB sky130_fd_pr__special_nfet_latch w=0.21 l=0.15

* 4 pfet latch (Magic extracts the pass gates as pfet_latch and the dummy shapes)
X1 Q Q_bar VPWR VPB sky130_fd_pr__special_pfet_latch w=0.14 l=0.15
X3 Q WL Q VPB sky130_fd_pr__special_pfet_latch w=0.14 l=0.025
X5 Q WL Q VPB sky130_fd_pr__special_pfet_latch w=0.14 l=0.025
X9 VGND Q Q_bar VPB sky130_fd_pr__special_pfet_latch w=0.14 l=0.15

* 2T Read Port
XMread1 read_int Q VGND 0 sky130_fd_pr__nfet_01v8 w=0.42 l=0.15
XMread2 RBL RWL read_int 0 sky130_fd_pr__nfet_01v8 w=0.42 l=0.15

.ends
